US04757061
4-ethoxycarbonylaminoandrosta-4,6-dien-3,17-dione [I, R=--NHCOOC2H5, R1 =R2 =H, (x)=single bond, (y)=double bond]
To a stirred solution of 3.0 g of 4-aminoandrosta-4,6-dien-3,17-dione in 15 ml of dry pyridine, cooled to 0° to -5° C., 1.25 ml of ethylchlorocarbonate are added dropwise. The mixture is cooled and stirred for 30 minutes and then, after the temperature is left to rise to 20° C., it is quenched in 100 ml of water. The mixture is extracted several times with ethyl acetate, washed with aqueous sodium chloride solution until neutral and dried. The solvent is then distilled in vacuo to obtaind 3.2 g of crude which is purified by crystallization with warm ethyl acetate to yield 2.95 g of pure title compound,

reactant | 4-aminoandrosta-4,6-dien-3,17-dione | 3.0 g | NC1=C2C=C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O | C19H25NO2
reactant | ethylchlorocarbonate | 1.25 ml | C(C)OC(=O)Cl | C3H5ClO2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 4-ethoxycarbonylaminoandrosta-4,6-dien-3,17-dione | 2.95 g | C(C)OC(=O)NC1=C2C=C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O | C22H29NO4
